US04154962
The process according to claim 1, wherein 3-isobutyl-cyclohexanone and sodium pyruvate are heated in a HCl and acetic acid solution to give a mixture of condensation products and said condensation products are heated for 4 to 5 hours with pyridine hydrochloride to give p-isobutylhydratropic acid.

reactant | 3-isobutyl-cyclohexanone | C(C(C)C)C1CC(CCC1)=O | C10H18O
reactant | sodium pyruvate | C(C(=O)C)(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
reactant | pyridine hydrochloride | Cl.N1=CC=CC=C1
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | p-isobutylhydratropic acid | C(C(C)C)C1=CC=C(C(C(=O)O)C)C=C1 | C13H18O2
